US04604464
3,4-Dihydrophthalazin-1(2H)-one was reacted with N-benzylisatoic anhydride according to the general procedure above to produce 3-(o-benzylaminobenzoyl)-3,4-dihydrophthalazin-1(2H)-one as a colorless solid, mp 206°-208° C.

reactant | 3,4-Dihydrophthalazin-1(2H)-one | C1(NNCC2=CC=CC=C12)=O | C8H8N2O
reactant | N-benzylisatoic anhydride | C(C1=CC=CC=C1)N1C=2C(C(=O)OC1=O)=CC=CC2 | C15H11NO3
product | 3-(o-benzylaminobenzoyl)-3,4-dihydrophthalazin-1(2H)-one | C(C1=CC=CC=C1)NC1=C(C(=O)N2NC(C3=CC=CC=C3C2)=O)C=CC=C1 | C22H19N3O2
